US04161538
2-[4-(2-Hydroxyiminocyclohexan-1-ylmethyl)phenyl]propionic Acid
A solution of 1.3 g of 2-[4-(2-oxocyclohexan-1-ylmethyl)phenyl]propionic acid, 0.33 g of hydroxylamine hydrochloride and 1.6 g of sodium acetate trihydrate in 85% ethanol was heated with stirring at 70°-75° C. for 2 hours, and the mixture was poured into 100 ml of water and extracted with ether. The extract was washed with water, dried over anhydrous sodium sulfate, and the solvent removed by distillation to give 1.4 g of the desired compound, which by recrystallization from a mixture of ethyl acetate and n-hexane afforded colorless prisms, m.p. 143°-150.5° C.

reactant | 2-[4-(2-oxocyclohexan-1-ylmethyl)phenyl]propionic acid | 1.3 g | O=C1C(CCCC1)CC1=CC=C(C=C1)C(C(=O)O)C | C16H20O3
reactant | hydroxylamine hydrochloride | 0.33 g | Cl.NO
reactant | sodium acetate trihydrate | 1.6 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-[4-(2-Hydroxyiminocyclohexan-1-ylmethyl)phenyl]propionic Acid | 1.4 g | ON=C1C(CCCC1)CC1=CC=C(C=C1)C(C(=O)O)C | C16H21NO3
